US07087601B2
The degassed solution of 4-(1,3-benzoxazol-2-yl)-2-cyanophenyl trifluoromethanesulfonate (300 mg, 1.2 mmol) in DME (5 mL) was added 2-tri-n-butylstannylpyridine (273 mg, 0.74 mmol), tetrakis(triphenylphosphine)palladium(0) (150 mg, 0.1 mmol). The reaction was stirred at 90° C. overnight and cooled to rt. EtOAc (100 mL) was added, as well as brine (50 mL). The organic layer was washed with brine (2×20 mL), dried (MgSO4), and the crude material was purified on flash column (silica gel, hexanes:EtOAc 3:1) to afford desired 5-(1,3-benzoxazol-2-yl)-2-pyridin-2-yl benzonitrile as pinkish solid. 1H NMR (CD3OD, 300 MHz), δ 8.85 (d 1H), 8.72 (d, 1H), 8.59 (m, 1H), 8.08 (d, 1H), 7.91 (d, 2H), 7.85 (m, 1H), 7.65 (m, 1H), 7.45 (m, 3H). MS (ESI) 298 (M+H)+.

reactant | 4-(1,3-benzoxazol-2-yl)-2-cyanophenyl trifluoromethanesulfonate | 1.2 mmol, 300 mg | FC(S(=O)(=O)OC1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)C#N)(F)F | C15H7F3N2O4S
reactant | 2-tri-n-butylstannylpyridine | 0.74 mmol, 273 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | DME | 5 mL | COCCOC | C4H10O2
solvent | brine | 50 mL | [Cl-].[Na+].O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.1 mmol, 150 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(1,3-benzoxazol-2-yl)-2-pyridin-2-yl benzonitrile | O1C(=NC2=C1C=CC=C2)C=2C=CC(=C(C#N)C2)C2=NC=CC=C2 | C19H11N3O
